US08049015B2
To cyclohexene (0.20 mL, 1.98 mmol) at room temperature was added borane tetrahydrofuran complex (1M in THF; 1.01 mL, 1.01 mmol), and the reaction was stirred for 45 minutes. N-Benzyl-N-[2-(5-ethynyl-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide (0.126 g, 0.29 mmol) in THF (2 mL) was added dropwise, and the reaction was stirred for 2 hours at room temperature. The mixture was cooled to 0° C., and MeOH (1 mL) and 1N aqueous NaOH (1.01 mL, 1.01 mmol) were added, followed by hydrogen peroxide (30%; 0.31 mL, 3.00 mmol), and the reaction was stirred for 1 hour at 0° C. The mixture was acidified with 1N aqueous HCl and extracted with EtOAc, and the combined organic layers were dried, filtered, and concentrated. The residue was purified by preparative HPLC to give (5-{2-[(N-Acetyl-N-benzyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-hydroxy-pyridin-3-yl)-acetic acid.

reactant | cyclohexene | 1.98 mmol, 0.20 mL | C1=CCCCC1 | C6H10
reactant | borane tetrahydrofuran | 1.01 mmol, 1M, 1.01 mL | O1CCCC1.B
reactant | N-Benzyl-N-[2-(5-ethynyl-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-acetamide | 0.29 mmol, 0.126 g | C(C1=CC=CC=C1)N(C(C)=O)CC1=C(C=CC(=C1)C(F)(F)F)C=1C(=NC=C(C1)C#C)OC | C25H21F3N2O2
reactant | NaOH | 1.01 mmol, 1N, 1.01 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 3.00 mmol, 0.31 mL | OO | H2O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
product | (5-{2-[(N-Acetyl-N-benzyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-hydroxy-pyridin-3-yl)-acetic acid | C(C)(=O)N(CC1=CC=CC=C1)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=NC1O)CC(=O)O | C24H21F3N2O4
